US09326987B2
6-[(1,1-Dioxido-4-thiomorpholinyl)methyl]-N-[6-(1H-indol-4-yl)-1H-indazol-4-yl]-2-pyridinecarboxamide
6-(Chloromethyl)-N-[6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazol-4-yl]-2-pyridinecarboxamide (75 mg), thiomorpholine 1,1-dioxide (25 mg) and sodium iodide (25 mg) were added to a small round-bottomed flask followed by MeCN (2 ml) and DIPEA (0.048 ml). The reaction mixture was heated at 70° C. for 18 h. The reaction was cooled to RT and the solvent was removed under a stream of nitrogen. The residue was suspended in IPA (2 ml) and 2M NaOH (aq) (1 ml) was added. The mixture was stirred at RT for 2 h, heated to 50° C. for 1 h, then cooled to RT to remain stirring overnight. The reaction was heated to 60° C. for 1 h. Then 2M NaOH (aq) (0.5 ml) was added and reaction was stirred at 60° C. for 2 h. The reaction was neutralised with 2M HCl (aq.) and the solvent was removed in vacuo. The residue was dissolved in DMSO (3 ml), filtered and purified by MDAP (method K). The product-containing fractions were evaporated under a stream of nitrogen and the residues were taken up in methanol, combined and blown down to give title compound, 24 mg.

reactant | 6-(Chloromethyl)-N-[6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazol-4-yl]-2-pyridinecarboxamide | 75 mg | ClCC1=CC=CC(=N1)C(=O)NC1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C28H20ClN5O3S
reactant | thiomorpholine 1,1-dioxide | 25 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | sodium iodide | 25 mg | [I-].[Na+]
reactant | DIPEA | 0.048 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 2M | Cl | ClH
solvent | MeCN | 2 ml | CC#N | C2H3N
product | 6-[(1,1-Dioxido-4-thiomorpholinyl)methyl]-N-[6-(1H-indol-4-yl)-1H-indazol-4-yl]-2-pyridinecarboxamide | O=S1(CCN(CC1)CC1=CC=CC(=N1)C(=O)NC1=C2C=NNC2=CC(=C1)C1=C2C=CNC2=CC=C1)=O | C26H24N6O3S
